US09382236B2
(2) 5-(3-Aminophenyl)-1,3-dihydronaphtho[1,2-e]-1,4-diazepin-2-one
5-(3-Bromophenyl)-1,3-dihydronaphtho[1,2-e]-1,4-diazepin-2-one (50 mg, 0.14 mmol) was dissolved in tetrahydrofuran (5 mL), the solution was added with sodium tert-butoxide (26 mg, 0.27 mmol), benzophenone imine (46 μL, 0.27 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (5 mg, 8 μmol), and tris(dibenzylideneacetone)dipalladium (8 mg, 8 μmol), and the mixture was refluxed by heating for 5 hours under a nitrogen atmosphere. The solvent was evaporated under reduced pressure, the residue was added with methanol (1 mL) and 2 M hydrochloric acid (3 mL), and the mixture was stirred at room temperature for 10 minutes. The mixture was added with saturated aqueous sodium hydrogencarbonate, and extracted with chloroform, and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate) to give the title compound (30 mg, yield 71%) as yellow amorphous.

reactant | 5-(3-Bromophenyl)-1,3-dihydronaphtho[1,2-e]-1,4-diazepin-2-one | 0.14 mmol, 50 mg | BrC=1C=C(C=CC1)C=1C2=C(NC(CN1)=O)C1=CC=CC=C1C=C2 | C19H13BrN2O
reactant | sodium tert-butoxide | 0.27 mmol, 26 mg | CC(C)([O-])C.[Na+]
reactant | benzophenone imine | 0.27 mmol, 46 μL | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium | 8 μmol, 8 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 8 μmol, 5 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
product | 5-(3-Aminophenyl)-1,3-dihydronaphtho[1,2-e]-1,4-diazepin-2-one | 30 mg, yield 71% | NC=1C=C(C=CC1)C=1C2=C(NC(CN1)=O)C1=CC=CC=C1C=C2 | C19H15N3O
